US04551460
3-Quinolinehexanol was prepared by reduction of 13.5 g of 6-(3-quinolinyl)-5-hexyn-1-ol over 1.0 g of 10% palladium on carbon at 1 atmosphere of hydrogen. The crude product obtained after filtration and evaporation was chromatographed over silica gel by high pressure liquid chromatography eluting with 2% methanol-dichloromethane. The first product to elute amounted to 0.95 g which was evaporatively distilled to yield 0.76 g (6%) of 6-[3-(1,2,3,4-tetrahydro)quinolinyl]hexanol, bp 180°-185° C./0.1 mm. The second product to elute amounted to 9.1 g which was evaporatively distilled to give 8.3 g (61%) of 3-quinolinehexanol, bp 195°-205° C. 0.25 mm.

reactant | 6-(3-quinolinyl)-5-hexyn-1-ol | 13.5 g | N1=CC(=CC2=CC=CC=C12)C#CCCCCO | C15H15NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 3-Quinolinehexanol | N1=CC(=CC2=CC=CC=C12)CCCCCCO | C15H19NO
